US09428470B2
B) 3-(5-(Benzyloxy)-2-bromophenyl)-5-(2-methoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid
An aqueous sodium hypochlorite solution (5%, 146 g) was added to a mixture of (E)-1-(5-(benzyloxy)-2-bromophenyl)-N-hydroxymethanimine (27.2 g), 4-methoxy-2-methylene-4-oxobutanoic acid (12.8 g), and THF (270 mL) at 0 C. The obtained mixture was stirred at 0 C for 1 hour and at room temperature overnight. To the reaction mixture, 1 M hydrochloric acid was added, followed by extraction with ethyl acetate. The extract was washed with bline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), and then, the obtained residue was washed with hexane/diethyl ether to obtain the title compound (26.4 g).

reactant | sodium hypochlorite | 146 g | Cl[O-].[Na+]
reactant | (E)-1-(5-(benzyloxy)-2-bromophenyl)-N-hydroxymethanimine | 27.2 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)\C=N\O)Br | C14H12BrNO2
reactant | 4-methoxy-2-methylene-4-oxobutanoic acid | 12.8 g | COC(CC(C(=O)O)=C)=O | C6H8O4
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 270 mL | C1CCOC1 | C4H8O
product | 3-(5-(Benzyloxy)-2-bromophenyl)-5-(2-methoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid | 26.4 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NOC(C1)(C(=O)O)CC(=O)OC)Br | C20H18BrNO6
